US04714774
In tetrahydrofuran (10 ml) was dissolved tetrahydropyranyl 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-bromobenzoate (1.3 g). To the solution was added 1N HCl (1 ml), which was left standing at room temperature for one hour, followed by addition of chloroform (60 ml). The mixture was washed with water sufficiently and dried with sodium sulfate. Then, the solvent was evaporated off. The residue was crystallized with isopropyl ether, followed by recrystallization from aqueous alcohol to give 0.7 g of 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-bromobenzoic acid as crystals, m.p. 155°-156° C.

reactant | tetrahydropyranyl 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-bromobenzoate | 1.3 g | C(C)(=O)OC=1C(=C(OCCCOC2=C(C=C(C(=O)OC3OCCCC3)C=C2)Br)C=CC1C(C)=O)CCC | C28H33BrO8
reactant | HCl | 1N, 1 ml | Cl | ClH
reactant | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-bromobenzoic acid | 0.7 g | C(C)(=O)OC=1C(=C(OCCCOC2=C(C=C(C(=O)O)C=C2)Br)C=CC1C(C)=O)CCC | C23H25BrO7
